US04977171
A solution of 1.75 g (10 millimoles) of 3-chlorobenzoyl chloride in 15 ml of tetrahydrofuran was added with ice cooling and stirring to a 100 ml egg-plant-shaped flask containing 1.61 g (10 millimoles) of 2-amino-3-(4-methyl-phenyl)-1-propanol, 1.01 g (10 millimoles) of triethylamine and 30 ml of tetrahydrofuran over the course of 30 minutes. The mixture was further stirred at 20° C. for 3 hours. The resulting triethylamine hydrochloride was removed by a glass filter, and the filtrate was concentrated under reduced pressure. Thionyl chloride (5 ml; 68 millimoles) was added all at once to a 100 ml eggplant-shaped flask containing this concentrate and 30 ml of benzene. With stirring, the mixture was refluxed for 3 hours. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. The concentrate was dissolved in 100 ml of ethyl acetate, washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. A 100 ml eggplant-shaped flask containing this concentrate and 30 ml of ethanol was heated to 70° C. over an oil bath with stirring, and 15 ml of a 3 % aqueous solution of sodium hydroxide was added over 10 minutes. The mixture was further stirred at 70° C. for 20 minutes, and concentrated under reduced pressure. Benzene (100 ml) was added to the concentrate, and the mixture was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography (mobile phase: hexane/ethyl acetate=7/3) to give 2-(3-chlorophenyl)-4-(4-methylbenzyl) -2-oxazoline (compound No. 108) as a yellow viscous oil. Yield 1.7 g (59.5 %).

reactant | 3-chlorobenzoyl chloride | 10 millimoles, 1.75 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | 2-amino-3-(4-methyl-phenyl)-1-propanol | 10 millimoles, 1.61 g | NC(CO)CC1=CC=C(C=C1)C | C10H15NO
reactant | triethylamine | 10 millimoles, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | Thionyl chloride | 68 millimoles, 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(3-chlorophenyl)-4-(4-methylbenzyl) -2-oxazoline | ClC=1C=C(C=CC1)C=1OCC(N1)CC1=CC=C(C=C1)C | C17H16ClNO
